US07504403B2
{1-[4-(2-Amino-ethyl)-phenyl]-ethyl}-carbamic acid tert-butyl ester:
The mixture of {1-[4-(2-benzyloxycarbonylamino-ethyl)-phenyl]-ethyl}carbamic acid tert-butyl ester (0.80 g, 2.0 mmol), 1,4-cyclohexadiene (0.96 mL, 10 mmol) and palladium on carbon (100 mg) in ethanol (20 mL)-methanol (5 mL) was heated to reflux for 2 h and brought to room temperature. The mixture was filtered through celite and concentrated to afford a white solid. M+1=265.

reactant | {1-[4-(2-benzyloxycarbonylamino-ethyl)-phenyl]-ethyl}carbamic acid tert-butyl ester | 2.0 mmol, 0.80 g | C(C)(C)(C)OC(NC(C)C1=CC=C(C=C1)CCNC(=O)OCC1=CC=CC=C1)=O | C23H30N2O4
reactant | 1,4-cyclohexadiene | 10 mmol, 0.96 mL | C1=CCC=CC1 | C6H8
reactant | methanol | 5 mL | CO | CH4O
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | {1-[4-(2-Amino-ethyl)-phenyl]-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C)C1=CC=C(C=C1)CCN)=O | C15H24N2O2
